US08071584B2
1-(1,1-dimethylethyl) 7-methyl 5-bromo-3-(4-thiepanyl)-1H-indole-1,7-dicarboxylate
The intermediate methyl 5-bromo-3-(4-thiepanyl)-1H-indole-7-carboxylate, indole (629 mg, 2.115 mmol), DMAP (129 mg, 1.058 mmol) and Boc2O (737 ul, 3.17 mmol) were suspended in 20 mL of CH2Cl2. The resulting mixture was stirred overnight. The mixture was diluted with water/AcOEt, washed with H2O and brine; dried over MgSO4, and concentrated, giving 784 mg of the title compound.

reactant | methyl 5-bromo-3-(4-thiepanyl)-1H-indole-7-carboxylate | BrC=1C=C2C(=CNC2=C(C1)C(=O)OC)C1CCSCCC1 | C16H18BrNO2S
reactant | indole | 2.115 mmol, 629 mg | N1C=CC2=CC=CC=C12 | C8H7N
reactant | Boc2O | 3.17 mmol, 737 ul | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | DMAP | 1.058 mmol, 129 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | water AcOEt | O.CCOC(=O)C
product | 1-(1,1-dimethylethyl) 7-methyl 5-bromo-3-(4-thiepanyl)-1H-indole-1,7-dicarboxylate | 784 mg | BrC=1C=C2C(=CN(C2=C(C1)C(=O)OC)C(=O)OC(C)(C)C)C1CCSCCC1 | C21H26BrNO4S
